US05719148
1-N-METHYLNIPECOTIC ACID
Arecaidine hydrochloride (4 grams) (22.6 mmoles) was hydrogenated in water (100 ml) using 10% Pd-C at 40 psi at 25° C. for 24 hours. The catalyst was filtered off and washed with water. The aqueous solution was shaken with BioRad AG1X8 resin (OH- form) (23 ml bed) and after 5 minutes the resin was filtered off and washed with water. The aqueous solution was evaporated to give the title compound (Yield: 2.95 grams, 92%).

reactant | Arecaidine hydrochloride | 22.6 mmoles, 4 grams | C[NH+]1CCC=C(C1)C(=O)O.[Cl-]
solvent | water | 100 ml | O | H2O
catalyst | Pd-C | [Pd] | Pd
product | 1-N-METHYLNIPECOTIC ACID | Yield: 2.95 grams, 92% | CN1CC(C(=O)O)CCC1 | C7H13NO2
